US04632925
A 5-L flask equipped with a magnetic stirrer, condenser, and argon inlet tube was charged with the 191.3 g of crude, overweight 3-(8-chlorooctyl)-pyridine, 184.4 g of 4-(2,2-diphenylethenyl)piperidine, 1.0 L of N,N-dimethylformamide, 116.3 g of potassium iodide, and 74.2 g of potassium carbonate. The mixture was stirred and heated at 75° for 18 hours and then cooled to 20°. Most of the solvent was removed on a rotary evaporator at 50°/0.5 mm. The residual yellow-brown semi-solid was partitioned between 2.0 L of ether and 1.0 L of deionized water. The aqueous layer was extracted with 2×1.0 L=2.0 L of ether. The combined ether solutions were washed with 500 mL of deionized water and 500 mL of brine and dried over sodium sulfate, to which was added 20 g of Norit SG Extra charcoal. This mixture was filtered through Celite and concentrated on a rotary evaporator at 45° to an oil which solidified upon standing. The solid was triturated with 500 mL of warm hexanes. The suspension was stored overnight at -20° and filtered. The solid was washed with a total of 100 mL of cold hexanes and dried at 20°/0.1 mm over phosphorus pentoxide to give 205.9 g of 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine as a pale tan solid, mp 53°-54°. Liquid chromatography analysis indicated this material to be homogeneous.

reactant | 3-(8-chlorooctyl)-pyridine | ClCCCCCCCCC=1C=NC=CC1 | C13H20ClN
reactant | 4-(2,2-diphenylethenyl)piperidine | 184.4 g | C1(=CC=CC=C1)C(=CC1CCNCC1)C1=CC=CC=C1 | C19H21N
reactant | potassium iodide | 116.3 g | [I-].[K+]
reactant | potassium carbonate | 74.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.0 L | CN(C=O)C | C3H7NO
product | 3-[8-[4-(2,2-diphenylethenyl)-1-piperidinyl]octyl]pyridine | 205.9 g | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C32H40N2
